US06451740B2
To 1.01 g of ([3-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenoxy]methyl)benzene, were added 3 ml of ethyl acetate, 1 ml of ethanol and 50 mg of 10% palladium/carbon, and the mixture was stirred for 5 hours at room temperature under hydrogen atmosphere. The reaction system was purged with nitrogen, then, the reaction solution was filtrated through Celite, the filtrate was concentrated to obtain 0.68 g of 3-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenol.

reactant | ([3-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenoxy]methyl)benzene | 1.01 g | ClC1=C(OC=2C=C(OCC3=CC=CC=C3)C=CC2)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C25H17ClF4N2O4
reactant | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium/carbon | 50 mg | [Pd] | Pd
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 3-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenol | 0.68 g | ClC1=C(OC=2C=C(C=CC2)O)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C18H11ClF4N2O4
